### PR TITLE
missing lemma in seq.v

### PR DESCRIPTION
**Pull request by CohenCyril**

### CODE REVIEW

**Comment by amahboubi** [comment]
Fine with me.

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1926,6 +1926,9 @@ Qed.
 Lemma mem_rem_uniq s : uniq s -> rem s =i [predD1 s & x].
 Proof. by move/rem_filter=> -> y; rewrite mem_filter. Qed.
 
+Lemma mem_remF s : uniq s -> x \in rem s = false.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: I am having afterthough. I think a better name would be `uniq_mem_remF`

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -1926,6 +1926,9 @@ Qed.
...
+Proof. by move=> us; rewrite mem_rem_uniq // inE eqxx. Qed.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Perhaps `by move/mem_rem_uniq->; rewrite inE eqxx.` ?

File: mathcomp/ssreflect/seq.v (hunk 1 above)
Comment (ggonthier) [reply mathcomp/ssreflect/seq.v]: To be consistent with the lemma immediately above, it should be `mem_rem_uniqF`.

**Comment by gares** [comment]
@amahboubi you happen to be the assignee, please merge at your convenience

**Comment by CohenCyril** [comment]
@gares ok now?
